US04490533
To ethanol (140 ml) saturated with dimethylamine gas at ice bath temperature is added 6-bromomethyl-2-phthalimido-pyridine (13.6 gm, 43 mmol). After stirring for 2 hours, the solution is concentrated to half volume to remove any excess dimethylamine. Hydrazine hydrate (2.4 ml) is added and refluxed for 2 hours. The reaction is cooled, filtered to remove precipitated byproduct and evaporated to dryness. The residue is dissolved in chloroform, washed with water, dried over anhydrous sodium sulfate, filtered and evaporated to give 3.8 gm of 6-dimethylamino-2-amino pyridine as an oil.

reactant | dimethylamine | CNC | C2H7N
reactant | 6-bromomethyl-2-phthalimido-pyridine | 43 mmol, 13.6 gm | BrCC1=CC=CC(=N1)N1C(C=2C(C1=O)=CC=CC2)=O | C14H9BrN2O2
solvent | ethanol | 140 ml | C(C)O | C2H6O
product | 6-dimethylamino-2-amino pyridine | 3.8 gm | CN(C1=CC=CC(=N1)N)C | C7H11N3
